* BFQ262A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT32B DIE MODEL : BFQ268
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFQ262A 1 2 3
Q1 6 5 7 7 BFQ268
* SOT32B parasitic model
               Lb  4 5 1.2n 
               Le  7 8 5n
               L1  2 4 .3n
               L2  1 6 .3n
               L3  3 8 .3n
              Ccb  4 6 274f
              Cbe  4 8 2f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFQ268.PRM                                     Date: Feb 1992
*
.MODEL  BFQ268   NPN
+              IS = 2.21645E-015
+              BF = 4.53625E+001
+              NF = 9.86201E-001
+             VAF = 3.17445E+002
+             IKF = 4.17948E+001
+             ISE = 8.60781E-014
+              NE = 1.49379E+000
+              BR = 3.00000E+001
+              NR = 9.93580E-001
+             VAR = 2.59879E+000
+             IKR = 9.41398E+000
+             ISC = 6.10176E-013
+              NC = 1.21072E+000
+              RB = 2.00000E+000
+             IRB = 1.00000E-006
+             RBM = 2.00000E+000
+              RE = 1.92234E+000
+              RC = 4.00000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.53723E-011
+             VJE = 6.00000E-001
+             MJE = 3.09569E-001
+              TF = 6.51175E-011
+             XTF = 6.00000E+001
+             VTF = 4.00000E+000
+             ITF = 8.00000E-001
+             PTF = 6.00000E+001
+             CJC = 4.00000E-012
+             VJC = 4.85859E-001
.ENDS

